US07273877B2
Ethyl 6-chloro-4-(2-fluoro-4-iodoanilino)nicotinate (200 mg, 0.48 mmol) was dissolved in CHCl3 (5 mL) and the solution cooled (ice/water). Dimethyl sulfate (0.27 mL, 2.86 mmol) was added, the solution allowed to warm to R.T., then heated at reflux for 20 h. The reaction mixture was allowed to cool to R.T., then a mixture of triethylamine (1.41 mL), acetic acid (0.94 mL) and EtOH (0.94 mL) was added and the reaction heated at reflux for a further 2 h. After cooling, water (10 mL) was added and the mixture was partitioned between EtOAc (100 mL) and water (50 mL). The EtOAc layer was washed with further water (50 mL) and brine (50 mL), then dried (Na2SO4). The solvent was removed under reduced pressure and the resulting residue purified by chromatography on silica gel (50% EtOAc/hexanes as eluant), giving ethyl 4-(2-fluoro-4-iodoanilino)-1-methyl-6-oxo-1,6-dihydro-3-pyridinecarboxylate as a white solid (143 mg, 72%), m.p. (EtOAc/n-hexane) 169-170° C. 1H NMR [(CD3)2SO, 400 MHz] δ 9.31 (s, 1H), 8.54 (s, 1H), 7.77 (dd, J=10.1, 1.9 Hz, 1H), 7.60 (br dd, J=8.3, 1.0 Hz, 1H), 7.30 (t, J=8.5 Hz, 1H), 5.46 (s, 1H), 4.30 (q, J=7.1 Hz, 2H), 3.43 (s, 3H), 1.32 (t, J=7.1 Hz, 3H). Anal. Calcd for C15H14FIN2O3: C, 43.3; H, 3.4; N, 6.7. Found: C, 43.7; H, 3.1; N, 7.0.

reactant | Ethyl 6-chloro-4-(2-fluoro-4-iodoanilino)nicotinate | 0.48 mmol, 200 mg | ClC1=NC=C(C(=O)OCC)C(=C1)NC1=C(C=C(C=C1)I)F | C14H11ClFIN2O2
reactant | Dimethyl sulfate | 2.86 mmol, 0.27 mL | S(=O)(=O)(OC)OC | C2H6O4S
reactant | triethylamine | 1.41 mL | C(C)N(CC)CC | C6H15N
reactant | acetic acid | 0.94 mL | C(C)(=O)O | C2H4O2
reactant | water | 10 mL | O | H2O
solvent | CHCl3 | 5 mL | C(Cl)(Cl)Cl | CHCl3
solvent | EtOH | 0.94 mL | CCO | C2H6O
product | ethyl 4-(2-fluoro-4-iodoanilino)-1-methyl-6-oxo-1,6-dihydro-3-pyridinecarboxylate | 143 mg, 72% | FC1=C(NC=2C(=CN(C(C2)=O)C)C(=O)OCC)C=CC(=C1)I | C15H14FIN2O3
